US07569577B2
tert-Butyl 4-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]piperidine-1-carboxylate was coupled with 3-bromoaniline using an analogous process to that described in Example 21 (preparation of starting materials) for the preparation of N-(3-chloro-4-fluorophenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine hydrochloride, to give N-(3-bromophenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine hydrochloride; 1H NMR Spectrum: (DMSO d6): 1.8-2.1 (m, 2H), 2.1-2.3 (m, 2H), 3.0-3.35 (m, 4H), 4.05 (s, 3H), 4.88 (m, 1H), 7.38-7.52 (m, 2H), 7.6 (s, 1H), 7.8 (d, 1H), 8.05 (s, 1H), 8.5 (s, 1H), 8.87 (s, 1H), 9.2 (bs, 2H), 11.7 (s, 1H); Mass Spectrum: (M+H)+ 431.

reactant | tert-Butyl 4-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]piperidine-1-carboxylate | ClC1=NC=NC2=CC(=C(C=C12)OC)OC1CCN(CC1)C(=O)OC(C)(C)C | C19H24ClN3O4
reactant | 3-bromoaniline | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | N-(3-chloro-4-fluorophenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine hydrochloride | Cl.ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OC)OC1CCNCC1
product | N-(3-bromophenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine hydrochloride | Cl.BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)OC1CCNCC1 | InChI=1S/C20H21BrN4O2.ClH/c1-26-18-10-16-17(11-19(18)27-15-5-7-22-8-6-15)23-12-24-20(16)25-14-4-2-3-13(21)9-14;/h2-4,9-12,15,22H,5-8H2,1H3,(H,23,24,25);1H
